.suckt  three_stage_single_output_op_amp_100_4_10 ibias in1 in2 out sourceNmos sourcePmos
c1 outFirstStage out 
c2 outSecondStage out 
m1 outInputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos
m2 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos
m3 inputVoltageBiasXXpXX3 ibias sourceNmos sourceNmos nmos
m4 outVoltageBiasXXpXX4 ibias sourceNmos sourceNmos nmos
m5 outVoltageBiasXXnXX1 outVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
m6 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos
m7 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos
m8 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos
m9 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos
m10 sourceTransconductance outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos
m11 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos
m13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos
c3 out sourceNmos 
m14 outSecondStage outVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos
m15 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos
m16 outSecondStage inputVoltageBiasXXpXX3 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos
m17 SecondStageYinnerStageBias outVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
m18 out ibias sourceNmos sourceNmos nmos
m19 out inputVoltageBiasXXpXX3 ThirdStageYinnerTransconductance ThirdStageYinnerTransconductance pmos
m20 ThirdStageYinnerTransconductance outSecondStage sourcePmos sourcePmos pmos
m21 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m22 ibias ibias sourceNmos sourceNmos nmos
m23 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos
m24 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m25 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourceTransconductance sourceTransconductance pmos
m26 inputVoltageBiasXXpXX3 inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m27 outVoltageBiasXXpXX4 outVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
.end three_stage_single_output_op_amp_100_4_10

